US09212173B2
Step 1—ethyl 2-(3-chloro-4-nitro-1H-pyrazol-1-yl)-2-methylpropanoate
To a solution of 3-chloro-4-nitro-1H-pyrazole (1.0 g, 6.8 mmol) in DMF (30 mL) was added ethyl 2-bromo-2-methylpropanoate (2.00 g, 10.2 mmol) and Cs2CO3 (4.40 g, 13.6 mmol). The mixture was stirred at 100° C. for 2 h. After filtration, the solution was poured into water and extracted with ethyl acetate for 3 times. The organic layers were combined and dried over anhydrous Na2SO4. The solvent was evaporated in vacuo, the residue was purified by silica gel column chromatography to afford the title compound (1.2 g, 68%) as yellowish oil. LC-MS (ESI): m/z=262.0 (M+H)+.

reactant | 3-chloro-4-nitro-1H-pyrazole | 6.8 mmol, 1.0 g | ClC1=NNC=C1[N+](=O)[O-] | C3H2ClN3O2
reactant | ethyl 2-bromo-2-methylpropanoate | 10.2 mmol, 2.00 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | Cs2CO3 | 13.6 mmol, 4.40 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 1—ethyl 2-(3-chloro-4-nitro-1H-pyrazol-1-yl)-2-methylpropanoate | 1.2 g, 68% | ClC1=NN(C=C1[N+](=O)[O-])C(C(=O)OCC)(C)C | C9H12ClN3O4
